US09399630B2
Step-2: Preparation of 3-(4-Hydroxybutyl)-1H-indole-5-carbonitrile
3-(4-Hydroxybutyryl)-1H-indole-5-carbonitrile (50 g) was added to acetonitrile (750 ml) at 25-30° C., followed by the addition of sodium cyanoborohydride (75 g) at the same temperature. The resulting mixture was cooled to 0-5° C., followed by drop-wise addition of a mixture of concentrated HCl (112.5 ml) and water (112.5 ml) for a period of 15 minutes at the same temperature. After completion of the reaction, water (750 ml) was added to the reaction mass at 0-5° C., followed by stirring for 5 minutes at the same temperature. The layers were separated and the aqueous layer was extracted two times with toluene (2×1000 ml). The resulting organic layers were combined, washed two times with water (2×1000 ml), and then distilled off the solvent under vacuum to produce 42 g of the titled compound as a residue. Dichloromethane (420 ml) was added to the residue at 25-30° C. to form a clear solution, followed by filtration to remove undissolved particles. The resulting filtrate was cooled to −5° C. to 0° C. and then stirred for 1-2 hours at the same temperature. The separated solid was filtered, washed with chilled dichloromethane (42 ml) and then dried at 50-55° C. to produce 31 g of 3-(4-hydroxybutyl)-1H-indole-5-carbonitrile (Purity by HPLC: 99%). The mother liquors were taken and distilled off the solvent under vacuum to give 11 g of the titled compound as a residue (Total yield: 86%).

reactant | 3-(4-Hydroxybutyryl)-1H-indole-5-carbonitrile | 50 g | OCCCC(=O)C1=CNC2=CC=C(C=C12)C#N | C13H12N2O2
reactant | acetonitrile | 750 ml | C(C)#N | C2H3N
reactant | sodium cyanoborohydride | 75 g | C(#N)[BH3-].[Na+]
reactant | HCl | 112.5 ml | Cl | ClH
solvent | water | 750 ml | O | H2O
solvent | water | 112.5 ml | O | H2O
product | 3-(4-Hydroxybutyl)-1H-indole-5-carbonitrile | 42 g | OCCCCC1=CNC2=CC=C(C=C12)C#N | C13H14N2O
